US06927228B2
(d) tert-Butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)-2′-methylbiphenyl-3-ylmethyl]-N-methylcarbamate
In a manner similar to that of Example 1(f), by reacting 3.95 g (11.6 mmol) of tert-butyl (4′-formyl-2′-methylbiphenyl-3-ylmethyl)-N-methylcarbamate with 1.4 g (11.6 mmol) of 2,4-thiazolidine dione, and after purification by chromatography on a column of silica eluted with a heptane/ethyl acetate mixture (8/2), 3 g (59%) of the expected product are obtained in the form of a yellow solid with a melting point of 156° C.

reactant | tert-butyl (4′-formyl-2′-methylbiphenyl-3-ylmethyl)-N-methylcarbamate | 11.6 mmol, 3.95 g | C(=O)C1=CC(=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C)C | C21H25NO3
reactant | 2,4-thiazolidine dione | 11.6 mmol, 1.4 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | tert-Butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)-2′-methylbiphenyl-3-ylmethyl]-N-methylcarbamate | O=C1SC(C(N1)=O)=CC1=CC(=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C)C | C24H26N2O4S
